US07338959B2
N2-(3-Fluoro-benzyl)-N5-[2-(4-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example two with N5-(2-chloro-pyrimidin-4-yl)-N2-(3-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (99 mg, 0.25 mmol) and 4-[(methylsulfonyl)methyl]aniline (46 mg, 0.25 mmol) as a white solid (44 mg, 30%). 1H NMR (300 MHz, d6-DMSO) δ 10.64 (s, 1H), 9.82 (s, 1H), 7.93 (d, J=6.9 Hz, 1H), 7.57-7.66 (m, 3H), 7.28-7.43 (m, 7H), 7.12 (m, 1H), 5.94 (s, 1H), 4.80 (d, J=5.7 Hz, 2H), 4.41 (s, 2H), 3.76 (s, 3H), 3.50 (s, 3H), 2.87 (s, 3H). MS (ESI) m/z=546 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(3-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 99 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC(=CC=C2)F)C)C=C1)C | C20H18ClFN6
reactant | 4-[(methylsulfonyl)methyl]aniline | 0.25 mmol, 46 mg | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
product | N2-(3-Fluoro-benzyl)-N5-[2-(4-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.FC=1C=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C)C3=NC(=NC=C3)NC3=CC=C(C=C3)CS(=O)(=O)C)C=CC1 | InChI=1S/C28H28FN7O2S.ClH/c1-35(26-13-14-30-27(34-26)32-22-9-7-19(8-10-22)18-39(3,37)38)23-11-12-25-24(16-23)33-28(36(25)2)31-17-20-5-4-6-21(29)15-20;/h4-16H,17-18H2,1-3H3,(H,31,33)(H,30,32,34);1H
